.include NE555.sub

.subckt 74LS04N 1 2 3 4 5 6 7 8 9 10 11 12 13 14
.include 74Lxx.lib

x1 1 2 74LS04
x2 3 4 74LS04
x3 5 6 74LS04
x4 9 8 74LS04
x5 11 10 74LS04
x6 13 12 74LS04

.ends

.subckt 74LS08N 1 2 3 4 5 6 7 8 9 10 11 12 13 14
.include 74Lxx.lib

x1 1 2 3 74LS08
x2 4 5 6 74LS08
x3 10 9 8 74LS08
x4 13 12 11 74LS08

.ends

.subckt 74LS32N 1 2 3 4 5 6 7 8 9 10 11 12 13 14
.include 74Lxx.lib

x1 1 2 3 74LS32
x2 4 5 6 74LS32
x3 10 9 8 74LS32
x4 13 12 11 74LS32

.ends
